US03984413
107.3 g (0.5 mol) 2-(p-chlorophenoxy) isobutyric acid and 56.0 g (0.25 mol) 7-hydroxyethyltheophylline were suspended together in 250 ml xylene and heated for 15 hours in a water separator after addition of 1.5 g p-toluenesulfonic acid. The solution was next agitated with dilute sodium bicarbonate solution (0.5 mol NaHCO3), waterwashed and evaporated in a rotary evaporator. The residue was crystallized from isopropanol, yielding 58.0 g (55% yield) 1-(7-theophyllinyl)-2-ethyl [2-(p-chlorophenoxy)-isobutyrate] with a melting point 131°-132°C.

reactant | 2-(p-chlorophenoxy) isobutyric acid | 0.5 mol, 107.3 g | ClC1=CC=C(OC(C(=O)O)(C)C)C=C1 | C10H11ClO3
reactant | 7-hydroxyethyltheophylline | 0.25 mol, 56.0 g | OCCN1C=NC=2N(C(N(C)C(C12)=O)=O)C | C9H12N4O3
reactant | water | O | H2O
reactant | sodium bicarbonate | 0.5 mol | C([O-])(O)=O.[Na+]
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | p-toluenesulfonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-(7-theophyllinyl)-2-ethyl [2-(p-chlorophenoxy)-isobutyrate] | 58.0 g, 55% yield | ClC1=CC=C(OC(C(=O)OCCN2C=NC=3N(C(N(C)C(C23)=O)=O)C)(C)C)C=C1 | C19H21ClN4O5
